US04588722
A mixture of 1.14 parts of 2-chloropyrimidine, 5 parts of N-[1-[[5-[(2-aminoethyl)thiomethyl]-2-furanyl]methyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine, 8 parts of sodium hydrogen carbonate and 80 parts of ethanol was stirred and refluxed overnight. The reaction mixture was filtered and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The main fraction was collected and the eluent was evaporated. The residue was crystallized from 1,1'-oxybisethane, yielding 1.2 parts (21%) of 1-[(4-fluorophenyl)methyl]-N-[1-[[5-]]2-(2-pyrimidinylamino)ethyl]thiomethyl]-2-furanyl]methyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 128.9° C. (compound 50).

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | N-[1-[[5-[(2-aminoethyl)thiomethyl]-2-furanyl]methyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | NCCSCC1=CC=C(O1)CN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C27H32FN5OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1H-benzimidazol-2-amine | N1C(=NC2=C1C=CC=C2)N | C7H7N3
